US06011044
Preparation of 1-(2-methyl-4-fluorophenyl)-4-[(2-hydroxyethyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methyl-4-fluorophenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(600 mg, 1.4 mmol) was dissolved in ethanolamine(5.0 ml). The reaction mixture was reacted at the same condition of Step 3 in the Example 42 to obtain 310 mg of desired compound as solid in 52% of yield.

reactant | 1-(2-Methyl-4-fluorophenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.4 mmol, 600 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H15ClF4N2O
solvent | ethanolamine | 5.0 ml | C(O)CN | C2H7NO
product | 1-(2-methyl-4-fluorophenyl)-4-[(2-hydroxyethyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 310 mg | CC1=C(C=CC(=C1)F)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NCCO | C22H21F4N3O2
